US05449778
Step C: Preparation of α-Amino-5H-dibenzo[a,d]-cycloheptene-5-acetic acid, hydrochloride
Ethyl α-amino-5H-dibenzo[a,d]cycloheptene-5-acetate, hydrochloride (0.21 g, 0.6 mmol) dissolved in 10 mL of absolute ethanol is stirred with 3 mL of 1.25M ethanolic potassium hydroxide solution until TLC (SiO2, hexane:2-propanol/3:1) shows no starting material (2 hours). The solvent is stripped and a residual solid is taken up in water and extracted with dichloromethane. The aqueous layer is acidified with 6N hydrochloric acid to pH 1 and stripped to dryness. The residue is treated with 5 mL of boiling water, cooled to room temperature, then refrigerated overnight. A solid is collected, washed with diethyl ether (0.05 g); mp 225° C. (dec).

reactant | Ethyl α-amino-5H-dibenzo[a,d]cycloheptene-5-acetate, hydrochloride | 0.6 mmol, 0.21 g | Cl.NC(C(=O)OCC)C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2
reactant | potassium hydroxide | 1.25M, 3 mL | [OH-].[K+]
reactant | hexane | CCCCCC | C6H14
reactant | 2-propanol | CC(C)O | C3H8O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | O | H2O
product | α-Amino-5H-dibenzo[a,d]-cycloheptene-5-acetic acid, hydrochloride | Cl.NC(C(=O)O)C1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C17H15NO2.ClH/c18-16(17(19)20)15-13-7-3-1-5-11(13)9-10-12-6-2-4-8-14(12)15;/h1-10,15-16H,18H2,(H,19,20);1H
